US05691349
Ethyl-3-allyl-4-hydroxybenzoate (1.03 g) was added to a cold solution of sodium hydroxide pellets (0.8 g) in water (10 ml) and the mixture was stirred for 18 hours. 2N aqueous hydrochloric acid was added to acidify the reaction mixture and to give a solid which was extracted into dichloromethane. The organic phase was separated, washed with water, saturated brine and dried (MgSO4). Evaporation gave 3-allyl-4-hydroxybenzoic acid (0.81 g) as a solid, m.p. 119°-123° C.; microanalysis, found C, 66.1; H, 5.9%; C10H10O3 0.2H2O requires: C, 66.1; H, 5.77%; NMR(DMSO-d6): 3.31(2H,d), 4.95-5.17(2H,m), 5.85-6.05(1H,m), 6.85(1H,d), 7.55-7.75(2H,m), 10.15(1H,s), 12.30(1H,s); m/z 179(M+H)+.

reactant | Ethyl-3-allyl-4-hydroxybenzoate | 1.03 g | C(C)OC(C1=CC(=C(C=C1)O)CC=C)=O | C12H14O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | 10 ml | O | H2O
product | 3-allyl-4-hydroxybenzoic acid | 0.81 g | C(C=C)C=1C=C(C(=O)O)C=CC1O | C10H10O3
